US07408075B1
A sample of 6-phosphocholinehexanoic acid in dimethylformamide is stirred at room temperature for 5 min. To this mixture, approximately a three fold molar excess of p-nitrophenyl trifluoroacetate is added. While stirring the resulting mixture, approximately a 2 fold molar excess of 2,6-lutidine is added and the mixture is stirred until the 6-phosphocholinehexanoate completely dissolves. The reaction mixture is stirred at room temperature for an additional 6 hours. Afterwards, an aliquot of ethyl ether is added to the reaction mixture to precipitate p-nitrophenyl 6-(O-phosphocholine)hydroxyhexanoate from solution. The supernatant is decanted and the oily product is dissolved in acetonitrile and is precipitated again with ether. After the removal of solvent traces, p-nitrophenyl 6-(O-phosphocholine)hydroxyhexanoate is obtained.

reactant | 6-phosphocholinehexanoic acid | C[N+](C)(C)CCOP(=O)(O)OCCCCCC(=O)O
reactant | p-nitrophenyl trifluoroacetate | FC(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C8H4F3NO4
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | p-nitrophenyl 6-(O-phosphocholine)hydroxyhexanoate | C[N+](C)(C)CCOP(=O)([O-])OCCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H27N2O8P
